US05488055
To a mixture of 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]quinoline (10 g, 0.043 mol) and DMSO (75 ml) was added cyclohexanemethylamine (10.75 g, 0.095 mol). The reaction mixture was refluxed for about four hours, then was allowed to stand for about 2 days. About 40-50 ml of the DMSO was removed in vacuo and the residue was pured into ice-water. A precipitate formed which was collected by filtration, washed with water and dried. The PG,13 solid precipitate was dissolved in CH2Cl2, washed with water, then brine and was then dried over MgSO4. The solvent was filtered and concentrated in vacuo and the residue was purified by column chromatography on silica gel eluting with ethyl acetate/cyclohexane (3/7) followed by recrystallization from hexane to afford 12 g (90.2%) of 1-ethyl-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine, as light yellow crystals, m.p. 161°-163° C.

reactant | 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]quinoline | 0.043 mol, 10 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2)CC | C12H10ClN3
reactant | cyclohexanemethylamine | 0.095 mol, 10.75 g | C1(CCCCC1)CN | C7H15N
solvent | DMSO | 75 ml | CS(=O)C | C2H6OS
product | 1-ethyl-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 12 g, 90.2% | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NCC2CCCCC2 | C19H24N4
